US05958942
4,5-Dihydro-4-[5-(tert-butoxycarbonylamino)pentan-1-yl]-3H-1,4,8b-triazaacenaphthylene-3,5-dione
To a solution of 5.11 g (50.0 mmol) of 1,5-diaminopentane and 4.85 g (37.5 mmol) of N,N-diisopropylethylamine in 70 ml of acetonitrile was added a solution of 8.39 g (25.0 mmol) of 5-ethoxycarbonyl-3-trichloroacetylimidazo[1,2-a]pyridine in 70 ml of acetonitrile. The mixture was heated for 0.5 hour under reflux. After cooling, the insolubles were filtered off. To the filtrate was added 21.83 g (100 mmol) of di-tert-butyl dicarbonate, and the mixture was stirred for one hour at room temperature. The solvent was distilled off. To the residue was added chloroform. The mixture was washed with water and dried over anhydrous magnesium sulfate. The solvent was distilled off, and the residue was purified by column chromatography to give 7.06 g of the desired compound (75.8%, pale brown solid), m.p.82.0-83.0° C.

reactant | 1,5-diaminopentane | 50.0 mmol, 5.11 g | NCCCCCN | C5H14N2
reactant | N,N-diisopropylethylamine | 37.5 mmol, 4.85 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 5-ethoxycarbonyl-3-trichloroacetylimidazo[1,2-a]pyridine | 25.0 mmol, 8.39 g | C(C)OC(=O)C1=CC=CC=2N1C(=CN2)C(C(Cl)(Cl)Cl)=O | C12H9Cl3N2O3
reactant | di-tert-butyl dicarbonate | 100 mmol, 21.83 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | acetonitrile | 70 ml | C(C)#N | C2H3N
solvent | acetonitrile | 70 ml | C(C)#N | C2H3N
product | 4,5-Dihydro-4-[5-(tert-butoxycarbonylamino)pentan-1-yl]-3H-1,4,8b-triazaacenaphthylene-3,5-dione | 7.06 g, 75.8% | C(C)(C)(C)OC(=O)NCCCCCN1C(C2=CN=C3C=CC=C(C1=O)N32)=O | C19H24N4O4
